US07812017B2
1-[6-Fluoro-5-methoxy-1-(phenylsulfonyl)-1H-indol-4-yl]ethanol
A solution of crude 6-fluoro-5-methoxy-1-(phenylsulfonyl)-1H-indole-4-carbaldehyde (72.3 mg, 217 μmol) in THF (2 mL) was treated with MeMgBr (310 μL of a 1.4 M solution in Toluene/THF, 2 eq) at rt and stirred for 20 min (50% conversion). After 20 min another 2 eq Grignard solution were added and stirring continued for 15 min. The reaction mixture was quenched with sat. NH4Cl, extracted with EtOAc (3×), the combined org. phases were washed with brine, dried and the solvent removed in vacuo to give a yellow-brownish foam (81.9 mg), 56% pure according to LC/MS. This material was purified by prep. HPLC (25-55% MeCN/50 mM NH4HCO3) to yield the title compound as an off-white solid (26.5 mg, 9% over 4 steps). MS (ESI+) for C17H16FNO4S m/z 332 (M-OH)+.

reactant | 6-fluoro-5-methoxy-1-(phenylsulfonyl)-1H-indole-4-carbaldehyde | 217 μmol, 72.3 mg | FC=1C(=C(C=2C=CN(C2C1)S(=O)(=O)C1=CC=CC=C1)C=O)OC | C16H12FNO4S
reactant | MeMgBr | C[Mg+].[Br-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Toluene THF | C1(=CC=CC=C1)C.C1CCOC1
product | 1-[6-Fluoro-5-methoxy-1-(phenylsulfonyl)-1H-indol-4-yl]ethanol | 81.9 mg | FC1=C(C(=C2C=CN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C(C)O)OC | C17H16FNO4S
